US06214869B1
(cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]cyclopropane carboxamide
The title compound was prepared by the general procedure described in Example 1 using (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine (0.79 mmol), triethylamine (2.37 mmol) and cyclopropane carbonyl chloride (0.95 mmol). Purification by silica gel column chromatography (Hex:EtOAc, 2:1) provided 88 mg of the desired product (43%) as a white wax. HPLC purity=92%.

reactant | (cis)-2-(2,3-dihydrobenzofuran-4-yl)cycloprop-1-yl methyl amine | 0.79 mmol | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)NC | C12H15NO
reactant | triethylamine | 2.37 mmol | C(C)N(CC)CC | C6H15N
reactant | cyclopropane carbonyl chloride | 0.95 mmol | C1(CC1)C(=O)Cl | C4H5ClO
product | (cis)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl]methyl]cyclopropane carboxamide | 88 mg, 43% | O1CCC2=C1C=CC=C2[C@@H]2[C@@H](C2)CNC(=O)C2CC2 | C16H19NO2
